* BEGIN MODEL TLV3501
* BEGIN NOTES
* MODEL FEATURES INCLUDE OUTPUT SWING,
* OUTPUT CURRENT THRU THE SUPPLY RAILS,
* TPD VS CLOAD, TPD VS DRIVE LEVEL,
* TPD VS SUPPLY VOLTAGE, RISE AND FALL
* TIME, INPUT CAPACITANCE, INPUT BIAS
* CURRENT, INPUT COMMON MODE VOTAGE
* RANGE, INPUT HYSTERESIS, HIGH CLOAD
* EFFECTS, OUTPUT CLAMP DIODES,
* QUIESCENT SUPPLY VS SUPPLY VOLTAGE,
* QUIESCENT CURRENT AT SHUTDOWN,
* SHUTDOWN THRESHOLD, ENABLE TIME,
* AND DISABLE TIME.
* MODEL TEMP RANGE IS -40 TO +125 DEG C.
* NOTE THAT MODEL IS FUNCTIONAL OVER
* THIS RANGE BUT NOT ALL PARAMETERS
* TRACK THOSE OF THE REAL PART.
* END NOTES
* PINOUT ORDER +IN -IN +V -V OUT EN
* PINOUT ORDER  3   1   4  2  5   6
.SUBCKT TLV3501 3 1 4 2 5 6
M12 7 8 4 4 MCPO
M13 7 8 2 2 MCNO
E1 9 10 11 12 1
E2 10 13 14 13 0.5
R1 0 10 1E9
R2 0 10 1E9
C1 8 15 0.53E-12
R3 8 9 800
E3 15 13 7 13 1
R5 15 8 1E5
M1 11 3 16 16 MCI
M2 17 1 16 16 MCI
I1 16 13 50E-6
M4 17 17 18 18 MCP
M3 11 11 18 18 MCP
R6 17 11 1E7
M5 19 17 18 18 MCP
M6 12 11 18 18 MCP
M7 19 19 20 20 MCN
M8 19 12 20 20 MCC
M9 12 19 20 20 MCC
M10 12 12 20 20 MCN
M11 20 20 13 13 MCN
R8 21 7 18
C3 12 11 0.01F
C4 11 17 110E-15
E4 22 0 3 0 1
E5 23 0 1 0 1
R9 24 23 1E3
R10 25 22 1E3
M14 26 25 13 13 MCNV
M15 27 25 14 14 MCPV
R11 26 14 1E6
R12 13 27 1E6
E6 18 14 28 14 1
V28 28 2 6.5
M16 29 26 13 13 MCN
M17 29 26 14 14 MCP
M18 8 29 14 14 MCPO
M19 8 27 14 14 MCPO
M20 30 24 13 13 MCNV
M21 31 24 14 14 MCPV
R15 30 14 1E6
R16 13 31 1E6
M22 32 30 13 13 MCN
M23 32 30 14 14 MCP
M24 8 32 14 14 MCPO
M25 8 31 14 14 MCPO
E8 33 5 34 0 -10
E9 35 21 34 0 10
M26 21 36 5 37 MNSW
M27 5 38 21 39 MPSW
R17 0 39 1E12
R18 37 0 1E12
V29 36 33 5
V30 38 35 -5
R19 0 35 1E12
R20 0 33 1E12
E10 14 0 4 0 1
M28 8 40 14 14 MCPO
M29 40 34 0 0 MCNS
R21 40 14 1E6
M45 41 42 0 0 NEN L=3U W=3000U
R133 41 43 1E6
V52 43 0 1
C27 6 0 1E-12
V53 41 44 1.111E-6
R134 0 44 1E12
C34 43 41 1E-18
M50 45 46 0 0 NEN L=3U W=300U
M51 47 45 0 0 NEN L=3U W=300U
R299 45 43 1E4
R300 47 43 1E4
C36 43 45 2.1E-12
C106 43 47 14E-12
M47 46 6 14 14 PEN L=6U W=60U
R301 0 46 1E4
C107 5 0 0.5E-12
R302 48 34 1E3
C108 34 0 2E-12
E11 48 0 44 0 1
E12 13 0 2 0 1
M52 49 50 2 2 MNIQ
R303 49 4 28E3
G1 4 2 51 0 3.05E-3
V55 52 48 -1
E13 53 0 52 0 -1
R304 0 52 1E12
R305 0 52 1E12
R306 0 48 1E12
R307 0 48 1E12
V56 53 51 3.111E-6
R308 0 51 1E12
R309 0 53 1E12
I2 4 2 2E-6
D1 54 0 DD
I3 0 54 1E-3
V57 54 55 0.65
R310 0 55 1E6
E14 42 47 55 0 0.9
R311 47 42 1E6
R312 13 16 1E12
C109 16 13 1E-16
C110 3 0 2E-12
C111 1 0 2E-12
I4 3 0 2E-12
I5 1 0 2E-12
R313 0 6 1E12
E15 50 2 51 0 1
D2 5 4 DC
D3 2 5 DC
R314 0 50 1E12
.MODEL DD D
.MODEL DC D RS=10
.MODEL MCI NMOS KP=8600U VTO=2
.MODEL MCC NMOS KP=215U VTO=2
.MODEL MCN NMOS KP=200U VTO=2
.MODEL MCP PMOS KP=200U VTO=-2
.MODEL MCNV NMOS KP=2000U VTO=-0.27
.MODEL MCPV PMOS KP=2000U VTO=0.28
.MODEL MCNO NMOS KP=35000U VTO=2
.MODEL MCPO PMOS KP=35000U VTO=-2
.MODEL MNSW NMOS KP=35000U VTO=2.5 IS=1E-18
.MODEL MPSW PMOS KP=35000U VTO=-2.5 IS=1E-18
.MODEL MCNS NMOS KP=200U VTO=0.5
.MODEL NEN NMOS KP=200U VTO=0.5 IS=1E-18
.MODEL PEN PMOS KP=200U VTO=-1.2 IS=1E-18
.MODEL MNIQ NMOS KP=35000U VTO=0.5 IS=1E-18
.ENDS
* END MODEL TLV3501
